US04250085
In a manner analogous to that described in Example 1(B)(ii), from the monobenzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-sarcosyl-L-alanyl)amino]-ethylphosphonic acid there was obtained (1R)-1-(N-sarcosyl-L-alanylamino)-ethylphosphonic acid of melting point 245°-246° C. (decomposition); [α]D20 =-84.2°; [α]36520 =-312° (c=0.5% in water).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-sarcosyl-L-alanyl)amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N(C)CC(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C16H24N3O7P
product | (1R)-1-(N-sarcosyl-L-alanylamino)-ethylphosphonic acid | N(C)CC(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C8H18N3O5P
